US05798316
By the method of Example 1, Step F, 32.33 grams (0.215 mole) of 4-ethylsalicylaldehyde and 35.9 grams (0.215 mole) of methyl 2-bromopropionate was reacted in the presence of 35.7 grams (0.258 mole) of potassium carbonate in 50 mL of tetrahydrofuran, yielding 49.16 grams of methyl 2-(2-formyl-4-ethylphenoxy)propionate. The NMR spectrum was consistent with the proposed spectrum.

reactant | 4-ethylsalicylaldehyde | 0.215 mole, 32.33 grams | C(C)C=1C=C(C(C=O)=CC1)O | C9H10O2
reactant | methyl 2-bromopropionate | 0.215 mole, 35.9 grams | BrC(C(=O)OC)C | C4H7BrO2
reactant | potassium carbonate | 0.258 mole, 35.7 grams | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | methyl 2-(2-formyl-4-ethylphenoxy)propionate | 49.16 grams | C(=O)C1=C(OC(C(=O)OC)C)C=CC(=C1)CC | C13H16O4
